.SUBCKT ADS61XX_HS INP INM VCM GND CLKP CLKM
V5          7 GND 5
V3          VCM GND 1.5
R11         8 7 5K 
SW1         8 GND 9 GND  S_VSWITCH_1
R9          GND 10 100 
C7          GND 11 1P IC=0 
C6          GND 12 1P IC=0 
C5          VCM GND 2P IC=0 
C4          11 12 2P IC=0 
C3          13 14 1P IC=0 
C1          10 15 1P IC=0 
R8          11 VCM 5K 
R7          VCM 12 5K 
R6          GND 13 100 
R5          14 11 20 
R4          15 12 20 
L2          CLKM 14 1N IC=0 
L1          CLKP 15 1N IC=0 
EClock      9 GND 12 11  1
CNoname     16 17 2P IC=0 
CNoname_2   18 19 2P IC=0 
Switch      19 17 8 GND  S_VSWITCH_2
Sampling    16 20 8 GND  S_VSWITCH_3
Sampling_2  18 21 8 GND  S_VSWITCH_4
CNoname_3   GND 20 500F IC=0 
CNoname_4   GND 21 500F IC=0 
CNoname_5   20 21 250F IC=0 
CNoname_6   22 GND 3P IC=0 
CNoname_7   GND 23 3P IC=0 
RNoname     20 22 100 
RNoname_2   23 21 100 
RNoname_3   24 20 10 
RNoname_4   GND 25 200 
RNoname_5   GND 26 200 
RNoname_6   27 21 10 
CNoname_8   25 24 1P IC=0 
CNoname_9   26 27 1P IC=0 
LNoname     INM 24 1N IC=0 
LNoname_2   INP 27 1N IC=0 
.MODEL S_VSWITCH_1 VSWITCH (RON=1G ROFF=1 VON=1M VOFF=0)
.MODEL S_VSWITCH_2 VSWITCH (RON=10 ROFF=1G VON=1 VOFF=0)
.MODEL S_VSWITCH_3 VSWITCH (RON=15 ROFF=1G VON=1 VOFF=0)
.MODEL S_VSWITCH_4 VSWITCH (RON=15 ROFF=1G VON=1 VOFF=0)
.ENDS
.SUBCKT ADS62C17 INP INM VCM GND CLKP CLKM
V2          7 GND 5
V3          VCM GND 1.5
R20         8 7 5K 
SW2         8 GND 9 GND  S_VSWITCH_1
R19         GND 10 100 
C21         GND 11 1P IC=0 
C20         GND 12 1P IC=0 
C19         VCM GND 2P IC=0 
C18         11 12 2P IC=0 
C17         13 14 1P IC=0 
C16         10 15 1P IC=0 
R18         11 VCM 5K 
R17         VCM 12 5K 
R16         GND 13 100 
R15         14 11 20 
R14         15 12 20 
L6          CLKM 14 2N IC=0 
L5          CLKP 15 2N IC=0 
EClock      9 GND 12 11  1
C15         16 17 2P IC=0 
C14         18 19 2P IC=0 
Switch      19 17 8 GND  S_VSWITCH_2
Sampling    16 20 8 GND  S_VSWITCH_3
Sampling_2  18 21 8 GND  S_VSWITCH_4
C13         GND 20 500F IC=0 
C12         GND 21 500F IC=0 
C11         20 21 250F IC=0 
C10         22 GND 3P IC=0 
C9          GND 23 3P IC=0 
R13         20 22 100 
R12         23 21 100 
R10         24 20 10 
R3          GND 25 200 
R2          GND 26 200 
R1          27 21 10 
C8          25 24 1P IC=0 
C2          26 27 1P IC=0 
L4          INM 24 2N IC=0 
L3          INP 27 2N IC=0 
.MODEL S_VSWITCH_1 VSWITCH (RON=1G ROFF=1 VON=1M VOFF=0)
.MODEL S_VSWITCH_2 VSWITCH (RON=10 ROFF=1G VON=1 VOFF=0)
.MODEL S_VSWITCH_3 VSWITCH (RON=15 ROFF=1G VON=1 VOFF=0)
.MODEL S_VSWITCH_4 VSWITCH (RON=15 ROFF=1G VON=1 VOFF=0)
.ENDS
.SUBCKT ADS62PXX_HS INP INM VCM GND CLKP CLKM
V5          7 GND 5
V3          VCM GND 1.5
R13         8 7 5K 
SW1         8 GND 9 GND  S_VSWITCH_1
R12         GND 10 100 
C15         GND 11 1P IC=0 
C14         GND 12 1P IC=0 
C13         VCM GND 2P IC=0 
C12         11 12 2P IC=0 
C11         13 14 1P IC=0 
C10         10 15 1P IC=0 
R11         11 VCM 5K 
R10         VCM 12 5K 
R9          GND 13 100 
R8          14 11 20 
R7          15 12 20 
L3          CLKM 14 2N IC=0 
L2          CLKP 15 2N IC=0 
EClock      9 GND 12 11  1
C9          16 17 2P IC=0 
C8          18 19 2P IC=0 
Switch      19 17 8 GND  S_VSWITCH_2
Sampling    16 20 8 GND  S_VSWITCH_3
Sampling_2  18 21 8 GND  S_VSWITCH_4
C7          GND 20 500F IC=0 
C6          GND 21 500F IC=0 
C5          20 21 250F IC=0 
C4          22 GND 3P IC=0 
C3          GND 23 3P IC=0 
R6          20 22 100 
R5          23 21 100 
R4          24 20 10 
R3          GND 25 200 
R2          GND 26 200 
R1          27 21 10 
C2          25 24 1P IC=0 
C1          26 27 1P IC=0 
L1          INM 24 1N IC=0 
LNoname     INP 27 1N IC=0 
.MODEL S_VSWITCH_1 VSWITCH (RON=1G ROFF=1 VON=1M VOFF=0)
.MODEL S_VSWITCH_2 VSWITCH (RON=10 ROFF=1G VON=1 VOFF=0)
.MODEL S_VSWITCH_3 VSWITCH (RON=15 ROFF=1G VON=1 VOFF=0)
.MODEL S_VSWITCH_4 VSWITCH (RON=15 ROFF=1G VON=1 VOFF=0)
.ENDS
.SUBCKT ADS62PXX INP INM VCM GND CLKP CLKM
V2          7 GND 5
V3          VCM GND 1.5
R20         8 7 5K 
SW2         8 GND 9 GND  S_VSWITCH_1
R19         GND 10 100 
C21         GND 11 1P IC=0 
C20         GND 12 1P IC=0 
C19         VCM GND 2P IC=0 
C18         11 12 2P IC=0 
C17         13 14 1P IC=0 
C16         10 15 1P IC=0 
R18         11 VCM 5K 
R17         VCM 12 5K 
R16         GND 13 100 
R15         14 11 10 
R14         15 12 10 
L6          CLKM 14 2N IC=0 
L5          CLKP 15 2N IC=0 
EClock      9 GND 12 11  1
C15         16 17 4P IC=0 
C14         18 19 4P IC=0 
Switch      19 17 8 GND  S_VSWITCH_2
Sampling    16 20 8 GND  S_VSWITCH_3
Sampling_2  18 21 8 GND  S_VSWITCH_4
C13         GND 20 1P IC=0 
C12         GND 21 1P IC=0 
C11         20 21 800F IC=0 
C9          22 23 2P IC=0 
R13         20 22 50 
R12         23 21 50 
R10         24 20 25 
R3          GND 25 100 
R2          GND 26 100 
R1          27 21 25 
C8          25 24 1P IC=0 
C2          26 27 1P IC=0 
L4          INM 24 2N IC=0 
L3          INP 27 2N IC=0 
.MODEL S_VSWITCH_1 VSWITCH (RON=1G ROFF=1 VON=1M VOFF=0)
.MODEL S_VSWITCH_2 VSWITCH (RON=10 ROFF=1G VON=1 VOFF=0)
.MODEL S_VSWITCH_3 VSWITCH (RON=15 ROFF=1G VON=1 VOFF=0)
.MODEL S_VSWITCH_4 VSWITCH (RON=15 ROFF=1G VON=1 VOFF=0)
.ENDS
