
* Connections:     C
*                  |    B
*                  |    |    E
*                  |    |    |
.SUBCKT Q_NPN      1    2    3
Q1 1 2 3 QNPN
.MODEL QNPN NPN( IS=10F NF=1.16 NR=1.16 BF=80 CJC=1P CJE=2P
+       TF=10P TR=1N )
.ENDS Q_NPN
*
* Connections:     C
*                  |    B
*                  |    |    E
*                  |    |    |
.SUBCKT Q_PNP      1    2    3
Q1 1 2 3 QPNP
.MODEL QPNP PNP( IS=10F NF=1.16 NR=1.16 BF=80 CJC=1P CJE=2P
+      TF=10P TR=1N )
.ENDS Q_PNP
*
* Connections:   A
*                |    C
*                |    |
.SUBCKT D_D      1    2
D1 1 2  DD
.MODEL DD D( IS=1F N=1.16 CJO = 1P TT = 10p )
.ENDS D_D
*
* Connections:   A
*                |    C
*                |    |
.SUBCKT D_Z      1    2
D1 1 2  D_5V1
.MODEL D_5V1 D( IS=10F N=1.16 BV=5.1 IBV=0.5M CJO = 1P TT = 10p )
.ENDS D_Z

